US07906546B2
50 mg (0.1 mmol) (RS,SR)-2-(1-benzenesulfonyl-2-hydroxy-1-methyl-ethyl)-7-chloro-2,3-dihydro-1H-cyclopenta[b]indole-4-carboxylic acid tert-butyl ester were dissolved in 5 mL dry THF at 0° C. 5 mg (0.11 mmol, 1.1 eq) NaH (55%) were added and the reaction mixture was stirred for 20 minutes. 10 μL (0.15 mmol, 1.5 eq) methyliodide were then added and the reaction was stirred for 1 hour at 0° C. The reaction was quenched with a saturated NaHCO3 solution. The organic phase was washed with brine, dried over Na2SO4, filtered and evaporated to dryness to yield 52 mg (100%) (RS,SR)-2-(1-benzenesulfonyl-2-methoxy-1-methyl-ethyl)-7-chloro-2,3-dihydro-1H-cyclopenta[b]indole-4-carboxylic acid tert-butyl ester as a white powder.

reactant | (RS,SR)-2-(1-benzenesulfonyl-2-hydroxy-1-methyl-ethyl)-7-chloro-2,3-dihydro-1H-cyclopenta[b]indole-4-carboxylic acid tert-butyl ester | 0.1 mmol, 50 mg | C(C)(C)(C)OC(=O)N1C2=C(C=3C=C(C=CC13)Cl)CC(C2)C(CO)(C)S(=O)(=O)C2=CC=CC=C2 | C25H28ClNO5S
reactant | NaH | 0.11 mmol, 5 mg, 1.1 eq | [H-].[Na+]
reactant | methyliodide | 0.15 mmol, 10 μL, 1.5 eq | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (RS,SR)-2-(1-benzenesulfonyl-2-methoxy-1-methyl-ethyl)-7-chloro-2,3-dihydro-1H-cyclopenta[b]indole-4-carboxylic acid tert-butyl ester | 52 mg, 100% | C(C)(C)(C)OC(=O)N1C2=C(C=3C=C(C=CC13)Cl)CC(C2)C(COC)(C)S(=O)(=O)C2=CC=CC=C2 | C26H30ClNO5S
